* C:\Users\Adojang\Desktop\E344\LTSpice\E344_Assessment1.asc
V2 N005 N004 PWL file=PWLinput.csv
V3 Stimulus N005 SINE({sineOffset} {sineAmplitude} {sineFreq})
V1 N004 0 {dcAmplitude}
V4 N006 0 9
R_Sense 9V N006 0.010
R1 NC_01 N002 100
R2 N002 Stimulus 5
R3 0 N002 5
XU1 N001 0 9V 0 N003 0 LM2595_ADJ_TRANS
C2 0 9V 220µ
L1 Vout N003 100µ
C1 Vout 0 120µ
D1 0 N003 DN5822
R4 N001 0 1k
R5 Vout N001 3065
C3 Vout N001 3.3n
C4 N007 0 0.33µ
C5 N008 0 0.1µ
XU2 N008 0 N007 LM7805
R6 N008 0 785
R7 Vout 0 100
.model D D
.lib C:\Users\Adojang\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 {transtop} 0 {timestep}
.include E344cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify input files while developing.\nFor submission: \n  * Use only 9V supply \n  * Connect "Stimulus" to your input\n  * Connect "Vout" to your output.\n  * Only one label name per net.
* Config file:
* Analysis setup:
* Battery
* Sensor-\nemulating \nstimulus
* Assessed nets:\nConnect to your outputs
* E. Stewdent.,  00024601\nV(0degV) = 500 mV\ndeltaV/degV = 10 mV
.incl LM2595_ADJ_TRANS.LIB
.incl LM7805.lib
.incl TLC2272.lib
.incl TL081.lib
.incl 1N5822.lib
.lib C:\Users\Adojang\Desktop\E344\LTSpice\LM2595_ADJ_TRANS.LIB
.lib C:\Users\Adojang\Desktop\E344\LTSpice\LM7805.lib
.backanno
.end
